### PR TITLE
Augmented Simplex Category

### PR DESCRIPTION
**Pull request by patrick-nicodemus**
This file defines two strict monoidal categories: 
- the category of finite ordinals, the augmented simplex category
- the category of finite cardinals and not-necessarily monotonic maps between them

It also defines a forgetful functor U : FinOrd -> FinCard, and proves that it is monoidal in the strong sense.

### CODE REVIEW

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 1]
```diff
@@ -0,0 +1,1057 @@
...
+    (and prove it has homsets)
+
+  - the category of finite cardinals, FinCard or Δ_sdg, as a monoidal category,
+    (and prove it has homsets)
+
+  - the forgetful functor Δ -> Δ_sdg (but we don't prove here that it's monoidal)
+
+  and
+
+- finset_is_set : (⟦ n ⟧) is a set.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:28]: This is a great table of contents for this file!
In the HTML documentation produced by `coqdoc`, identifiers enclosed in brackets get turned into links toward that identifier. Hence it would be great if you could write `[finset_is_set]` instead of `finset_is_set` in the comment, and similarly for the other identifiers.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 2]
```diff
@@ -0,0 +1,1057 @@
...
+Proof.
+  intro X. apply funextfun.
+  intro x. apply subtypeInjectivity_prop.
+  exact (X x).
+Defined.
+
+Definition ordconstr {n : nat} (k : nat) (bd : k < n) : stn n := k,,bd.
+
+
+(* Local Proposition a2 : ∏ n : nat, ∏ x y : (⟦ n ⟧)%stn, stntonat n x ≤ stntonat n y -> x ≤ y. *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:132]: Should these commented-out things be deleted?

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 3]
```diff
@@ -0,0 +1,1057 @@
...
+(*       { intros l m n f g. exact (monfunstncomp f g). } } } *)
+(*   apply is_precategory_one_assoc_to_two. (* Checking unitality and associativity of composition *) *)
+(*   simpl. split. *)
+(*   { simpl. split. *)
+(*     { intros m n f. now apply monfunstnpr1_isInjective. } *)
+(*     { intros m n f. now apply monfunstnpr1_isInjective. } } *)
+(*   { simpl. intros m n o p f g h. now apply monfunstnpr1_isInjective. } *)
+(* Defined. *)
+
+Definition precat_Delta : precategory.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:162]: Is this definition different from the one in CategoryTheory.SimplicialSets ? Would you be able to reuse that definition?

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 4]
```diff
@@ -0,0 +1,1057 @@
...
+  - use make_precategory_data.
+    + (* We give the objects and morphisms: ob = nat, hom(m,n)=monfunstn m n *)
+      exact (make_precategory_ob_mor nat monfunstn).
+    + intros m. apply monfunstnid. (* defining identity and composition law *)
+    + intros l m n f g. exact (monfunstncomp f g).
+  - split.
+    + simpl. split.
+      * intros m n f. now apply monfunstnpr1_isInjective.
+      * intros m n f. now apply monfunstnpr1_isInjective.
+    + simpl. intros m n o p f g h. now apply monfunstnpr1_isInjective.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:175]: It could be good to make this proof part (i.e., the proof of the categorical axioms) opaque, using either a separate lemma closed with `Qed.`, or the `abstract (...)` tactical.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 5]
```diff
@@ -0,0 +1,1057 @@
...
+      unfold "id". simpl. apply fincard_hom_extensionality.
+      simpl. reflexivity.
+    }
+    {
+      unfold functor_compax. simpl.
+      unfold "·". simpl. intros a b c f g.
+      apply fincard_hom_extensionality. simpl.
+      intro. reflexivity.
+    }
+  }
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:280]: Can the proof part be made opaque?

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 6]
```diff
@@ -0,0 +1,1057 @@
...
+  set (Ug := make_dirprod (# U g0) (# U g1)).
+  apply U_faithful. exact (tensor_comp_card a b c Uf Ug).
+Defined.
+
+Local Proposition tensor_card_is_functor : is_functor tensor_data_card.
+Proof.
+  split.
+  exact tensor_id_card.
+  exact tensor_comp_card.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:585]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 7]
```diff
@@ -0,0 +1,1057 @@
...
+  induction natlthorgeh.
+  - rewrite (natlthorgeh_left_branch (stnlt (f0 (ordconstr x a) )) _). simpl in *.
+    apply maponpaths. apply maponpaths.
+    apply subtypeInjectivity_prop.
+                              reflexivity.
+  - rewrite (natlthorgeh_right_branch (natgehplusnmm _ b0) _). simpl in *.
+    apply (maponpaths (λ k : nat, k+c0)). apply maponpaths. apply maponpaths.
+    apply subtypeInjectivity_prop.
+                              simpl. exact (pathsinv0 (plusminusnmm _ b0)).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:569]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 8]
```diff
@@ -0,0 +1,1057 @@
...
+  - simpl. unfold "id". reflexivity.
+  - simpl. unfold "id". simpl. exact (minusplusnmm x n b).
+Defined.
+
+Local Proposition tensor_id_ord : (functor_idax tensor_data_ord).
+Proof.
+  intro a.
+  apply U_reflects_id. unfold tensor_data_ord.
+  apply (tensor_id_card).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:547]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 9]
```diff
@@ -0,0 +1,1057 @@
...
+    simpl. generalize (a + b). induction p.  reflexivity.
+  } simpl in *. rewrite RW.
+  apply subtypeInjectivity_prop.
+  induction (natlthorgeh xval _) as [XLA | XGA].
+  - simpl. assert (xval < a) as XLA'. { rewrite (natplusr0 a) in XLA.  exact XLA. }
+    rewrite (natlthorgeh_left_branch XLA' _). simpl in *.
+    induction (natplusr0 a). reflexivity.
+  - simpl. assert (xval ≥ a) as XGA'. { rewrite (natplusr0 a) in XGA.  exact XGA. }
+    rewrite (natlthorgeh_right_branch XGA' _). simpl in *. rewrite (natplusr0 a). reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:900]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 10]
```diff
@@ -0,0 +1,1057 @@
...
+  unfold "·". simpl.
+  induction (natplusassoc (a + b) c d). simpl.
+  unfold "id". simpl. set (k:=(tensor_id_card (make_dirprod a (b + c + d)))).
+  unfold "id" in k. simpl in k. unfold ordinal_addition in k. simpl.
+  unfold "id" in k. simpl in k. unfold Δ_sdg_ob_constr. rewrite k.
+  induction (natplusassoc a (b + c) d), (natplusassoc a b c). simpl.
+  set (k':=(tensor_id_card (make_dirprod (a + b + c) d))).
+  unfold "id" in k'. simpl in k'. unfold ordinal_addition in k'.
+  unfold "id" in k'. simpl in k'. rewrite k'. reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:917]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 11]
```diff
@@ -0,0 +1,1057 @@
...
+  unfold tensor_data_card in j. simpl in j. unfold "id" in j. simpl in j.
+  unfold idfun. simpl. unfold idfun in j. rewrite j. induction (natplusassoc a (b + c) d).
+  simpl.
+  induction (natplusassoc a b c). simpl.
+  set (j' := (tensor_id_card (make_dirprod (a + b + c) d))).
+
+  unfold tensor_data_card in j'. simpl in j'. unfold ordinal_addition in j'.
+  simpl in j'. unfold "id" in j'. simpl in j'. unfold idfun in *. rewrite j'.
+  reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:939]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 12]
```diff
@@ -0,0 +1,1057 @@
...
+  change (idfun (⟦ y + z ⟧)%stn) with (identity (C:=Δ_sdg)  (y+z)).
+  set (j':= (tensor_id_card (make_dirprod (x + y) z))). simpl in *. rewrite j'.
+  set (j:= (tensor_id_card (make_dirprod x (y + z)))). simpl in *. rewrite j.
+  simpl in *.
+  rewrite (id_right (C:=Δ_sdg)), (id_right (C:=Δ_sdg)),
+  (id_right (C:=Δ_sdg)), (id_left (C:=Δ_sdg)).
+  (* Done. *)
+  apply fincard_hom_extensionality. intro t. (* induction t as [tval tbd]. *)
+  cbn. induction (nat_rect _ _). reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:1012]: Possibly better to close that proof with `Qed.`.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v [hunk 13]
```diff
@@ -0,0 +1,1057 @@
...
+    apply subtypeInjectivity_prop. simpl. rewrite natminuseqn. rewrite natplusr0. reflexivity.
+  - change (idfun (⟦x⟧)%stn) with (identity (C:=Δ_sdg) x).
+    unfold MonoidalFunctors.I_C, monoidal_cat_unit. simpl. unfold tensor_unit.
+    rewrite (id_right (C:=Δ_sdg)). cbn. induction (natplusr0 x). simpl.
+    apply funextsec. intro y. simpl. unfold sumfn.
+    induction y as [yval ybd]. simpl.
+    assert (yval < x) as j. { rewrite (natplusr0 x) in ybd. exact ybd. }
+    rewrite (natlthorgeh_left_branch j _). simpl.
+    induction (! natplusr0 x). simpl. apply subtypeInjectivity_prop. reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:1032]: Possibly better to close that proof with `Qed.`.

**Review by benediktahrens — COMMENTED** [review]
Thanks a lot for your Pull Request. I have added a few questions and suggestions.

File: UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v (hunk 3 above)
Comment (patrick-nicodemus) [reply UniMath/CategoryTheory/Monoidal/AugmentedSimplexCategory.v:162]: This definition does differ from the one in CategoryTheory.SimplicialSets. The objects of that category are
[0] = {0}
[1] = {0,1}
[2] = {0, 1, 2} 
and so on. I call this the "topologists' indexing" as calling the ordinal [2] reflects that it is 2-dimensional.
The objects of the category in this file are
0 = \emptyset
1 = {0}
2 = {0,1}
and so on, as in the definition of the von Neumann ordinals. The category in CategoryTheory.SimplicialSets does not have the unit object which is necessary for the proposed addition functor. The reindexing / renaming of the objects allows us to define the addition bifunctor sensibly, so that n + m has the obvious meaning; in the category in CategoryTheory.SimplicialSets we have the unfortunate fact that [n] \oplus [m] = [n+m+1].
